### PR TITLE
[Merged by Bors] - feat: SkewPolynomial

### PR DESCRIPTION
**Pull request by xgenereux**
### Univariate skew polynomials

Skew polynomials are represented as `SkewMonoidAlgebra R (Multiplicative ℕ)`, where `R` is usually at least a Semiring.
In this file, we define `SkewPolynomial` and provide basic instances.

The point if this PR is to introduce the very most basic definitions and API.

From #23949.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+  SkewMonoidAlgebra.instModule
+
+instance {S₁ S₂ : Type*} [Semiring S₁] [Semiring S₂] [Module S₁ R] [Module S₂ R]
+    [SMulCommClass S₁ S₂ R] : SMulCommClass S₁ S₂ (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instSMulCommClass
+
+instance {S : Type*} [SMulZeroClass S R] : SMulZeroClass S (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instSMulZeroClass
+
+instance {S₁ S₂ : Type*} [SMul S₁ S₂] [SMulZeroClass S₁ R] [SMulZeroClass S₂ R]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Can you use a `variable` line?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+section phi
+
+variable [MulSemiringAction (Multiplicative ℕ) R]
+
+/-- Ring homomorphism associated to the twist of the skew polynomial ring.
+The multiplication in a skew polynomial ring is given by `xr = φ(r)x`. -/
+abbrev φ := MulSemiringAction.toRingHom (Multiplicative ℕ) R (ofAdd 1)
+
+lemma φ_iterate_apply (n : ℕ) (a : R) : (φ^[n] a) = ((ofAdd n) • a) := by
+  unfold φ
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: Can you add an `apply` lemma avoiding this `unfold`?

**Review by riccardobrasca — COMMENTED** [review]
LGTM, thanks! @AntoineChambert-Loir  can you have a quick look?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 2 above)
Comment (xgenereux) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I added a `\phi_def` lemma.

**Comment by riccardobrasca** [comment]
Can you please fix the error?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,167 @@
...
+
+Skew polynomials are represented as `SkewMonoidAlgebra R (Multiplicative ℕ)`,
+where `R` is usually at least a Semiring. In this file, we define `SkewPolynomial`
+and provide basic instances.
+
+**Note**: To register the endomorphism `φ` see notation below.
+
+## Notation
+
+The endomorphism `φ` is implemented using some action of `Multiplicative ℕ` on `R`.
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:28]: Given this implementation, how is it possible to consider the interaction of two distinct actions?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,167 @@
...
+From this action, `φ` is an `abbrev` denoting $(\text{ofAdd } 1) \cdot a := \varphi(a)$.
+
+Users that want to work with a specific map `φ` should introduce an an action of
+`Multiplicative ℕ` on `R`. Specifying that this action is a `MulSemiringAction` amount
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
`Multiplicative ℕ` on `R`. Specifying that this action is a `MulSemiringAction` amounts
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,167 @@
...
+
+## Reference
+
+The definition is inspired of [Papikian2023].
+
+## Tags
+
+Skew Polynomials, Twisted Polynomials.
+
+## TODO :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:59]: What prevents you to have this done here?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,167 @@
...
+to saying that `φ` is an endomorphism.
+
+Furthermore, with this notation `φ^[n](a) = (ofAdd n) • a`, see `φ_iterate_apply`.
+
+## Implementation notes
+
+The implementation uses `Muliplicative ℕ` instead of `ℕ` as some notion
+of `AddSkewMonoidAlgebra` like the current implementation of `Polynomials` in Mathlib.
+
+This decision was made for two reasons:
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I see your point but find this slightly awkward. Duplication of definitions/lemmas with `Add`-prefix could be something that is automated, even if the present version of to_additive doesn't work at it.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,167 @@
...
+  SkewMonoidAlgebra.instSMulZeroClass
+
+instance [SMul S₁ S₂] [SMulZeroClass S₁ R] [SMulZeroClass S₂ R]
+    [IsScalarTower S₁ S₂ R] : IsScalarTower S₁ S₂ (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instIsScalarTower
+
+instance [Subsingleton R] : Unique (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instUniqueOfSubsingleton
+
+/--
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: This has a smell of defeq abuse.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,167 @@
...
+
+@[simp] lemma support_zero : (0 : SkewPolynomial R).support = ∅ := rfl
+
+@[simp] lemma support_eq_empty : p.support = ∅ ↔ p = 0 := by
+  simp [support]
+
+lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by
+  simp
+
+lemma support_add : (p + q).support ⊆ p.support ∪ q.support := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:121]: I am surprised that it needs a proof, wouldn't this be taken care of by `SkewMonoidAlgebra`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,167 @@
...
+
+The definition is inspired of [Papikian2023].
+
+## Tags
+
+Skew Polynomials, Twisted Polynomials.
+
+## TODO :
+  - Add algebra instance
+  - Add `ext` lemma in terms of `Coeff`.
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:61]: This is probably `SkewMonoidAlgebra.coeff` or `SkewPolynomial.coeff`.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,167 @@
...
+  uses an acting `AddMonoid M` and so we need to use `Multiplicative ℕ` for the action anyways.
+
+For associativity to hold, there should be an instance of
+`MulSemiringAction (Multiplicative ℕ) R` present in the context.
+For example, in the context of $\mathbb{F}_q$-linear polynomials, this can be the
+$q$-th Frobenius endomorphism - so $\varphi(a) = a^q$.
+
+## Reference
+
+The definition is inspired of [Papikian2023].
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]: I understand that this definition is the one which is used for Drinfel'd modules, but I regret not having had a look at the seminal paper of Ore, https://doi.org/10.2307/1968173, where a more general definition is given : he essentially starts from the condition $$X \cdot a = \sigma(a) X + \delta(a)$$, and observes what it requires from $$\sigma$$ (the $$\phi$$ of that PR) and $$\delta$$ (it has to be a derivation). A basic search for literature in that direction suggests that this generality is used for applications (eg to coding theory). I don't insist that this generality is added here, but showing a path for doing so would be useful. Maybe this is a problem for the skew monoid algebra files, which has to be generalized first (to twisted monoid algebras, involving actions and derivations).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,167 @@
...
+instance [SMulZeroClass S R] : SMulZeroClass S (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instSMulZeroClass
+
+instance [SMul S₁ S₂] [SMulZeroClass S₁ R] [SMulZeroClass S₂ R]
+    [IsScalarTower S₁ S₂ R] : IsScalarTower S₁ S₂ (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instIsScalarTower
+
+instance [Subsingleton R] : Unique (SkewPolynomial R) :=
+  SkewMonoidAlgebra.instUniqueOfSubsingleton
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:108]: Are there ring instances?

**Review by AntoineChambert-Loir — CHANGES_REQUESTED** [review]
It could well pass as is, but I would like to read the answers of the authors to my questions/remarks first.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 6 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I think the first reason is not really important, I will delete it from the docstring. The main issue is that we are relying on `MulSemiringAction` and we did not want to duplicate this in the additive setting.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Indeed, for Drinfeld modules (which is our goal here) we only need (a particular case of) `SkewPolynomial`. 
If one wanted this more general case, this should already be done at the level of `SkewMonoidAlgebra`, and we briefly considered this when defining this, but decided against this level of generality because of the added complexity (when again, we only need a very concrete case in our application).
Would you agree with adding a "TODO" to the `SkewMonoidAlgebra` file mentioning the possibility of generalizing it in the future?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:59]: We have this in our project and plan to PR it; we were just trying to keep this PR short.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 11 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:108]: Yes, we plan to PR the following later on:
```
variable [Ring R] [MulSemiringAction (Multiplicative ℕ) R]

instance instRing : Ring (SkewPolynomial R) := SkewMonoidAlgebra.instRing
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 3 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:28]: I think that would be complicated with this setting; we designed this under the assumption that for `SkewPolynomial` you only care about one particular action (given by Frobenius in the Drinfeld module case).
Do you have an example in mind where you might want to consider two actions on the same skew polynomial ring?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 9 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:61]: We also have some API about `SkewPolynomial.coeff` to be PR'd.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: What do you mean, the definition of `support`?

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 8 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:121]: Apparently `SkewMonoidAlgebra.support_add` was missing, I added it and it can just be applied here.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: Yes, as I said, I don't insist the everything be done here. I fell on this question by looking at Ore's paper who introduced the skew polynomials (and proved that they satisfy the Ore condition for the fraction ring).

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: Yes, that it passes a set of `Multiplicative N` to a set of `N`.

Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: Ah, I see, let me have a look.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: OK, thanks! I will add this comment.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: I have added the cast explicitly in the definition (which then requires some unfolding in `support_add`); let me know if this version looks better.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean]: I could not find a nice reference in the group algebra setting, so I added the comment to the `SkewPolynomial` file docstring instead, linking to Ore's paper.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:109]: It avoids the defeq, hence I believe it is better, but it's obviously less legible.

File: Mathlib/Algebra/SkewPolynomial/Basic.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:28]: I have no example, but imagine you want to classify isomorphisms between two skew polynomial rings. If that's R<X,phi> and S<X,psi>, no problem, but if R = S, you can't even phrase it conveniently. Of course, you can introduce a type synonym.

Comment (mariainesdff) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:28]: Yes, you could use a type synonym in that case.
I think the alternative of having $$\varphi$$ as an explicit argument is worse, since in that case you do not get  algebraic instances on `SkewPolynomial k G` (only defs).

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/SkewPolynomial/Basic.lean:28]: This is an excellent point. Of course !

**Comment by AntoineChambert-Loir** [comment]
I believe all of my concerns are solved. Thanks!

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,169 @@
...
+/--
+The set of all `n` such that `X^n` has a non-zero coefficient.
+-/
+def support (p : SkewPolynomial R) : Finset ℕ :=
+  Finset.map ⟨toAdd, fun ⦃_ _⦄ a ↦ Multiplicative.ext a⟩ (SkewMonoidAlgebra.support p)
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  Finset.map ⟨toAdd, toAdd.injective⟩ (SkewMonoidAlgebra.support p)
```

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,169 @@
...
+
+@[simp] lemma support_zero : (0 : SkewPolynomial R).support = ∅ := rfl
+
+@[simp] lemma support_eq_empty : p.support = ∅ ↔ p = 0 := by simp [support]
+
+lemma card_support_eq_zero : p.support.card = 0 ↔ p = 0 := by simp
+
+lemma support_add : (p + q).support ⊆ p.support ∪ q.support := by
+  simp only [support, ← Finset.map_union, Finset.map_subset_map]
+  exact SkewMonoidAlgebra.support_add
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean]:
```suggestion
  simpa [support, ← Finset.map_union] using SkewMonoidAlgebra.support_add
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 14]
```diff
@@ -156,6 +156,12 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
   rcases p
   simp only [support, Finsupp.support_eq_empty, ofFinsupp_eq_zero]
 
+lemma support_add [DecidableEq G] {p q : SkewMonoidAlgebra k G} :
+    (p + q).support ⊆ p.support ∪ q.support := by
+  simp only [support]
+  erw [toFinsupp_add p q]
+  exact Finsupp.support_add
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]:
```suggestion
  rw [support, toFinsupp_add p q]
  exact Finsupp.support_add
```
Do you know what is going on here? `simp only [support]` somehow change `+` into `add` (you can see the exact difference using `erw?` in your proof), and I don't understand why.

**Review by riccardobrasca — APPROVED** [review]
Thanks! (There is also a building error)

bors d+

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean (hunk 14 above)
Comment (xgenereux) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: I am not sure, it seems to me that this is caused by how `simp` reduces match expression. Changing the definition to `p.toFinsupp.support` instead of the match fixes the issue.

**Comment by riccardobrasca** [comment]
Is this ready to merge?
